*****************************************************************
* INFINEON Power Transistors                                    *
* Level-1 / 3 PSPICE Library for small signal transistors       *
* Version 270715                                                *
*                                                               *
*****************************************************************
*                                                               *
* Models provided by Infineon are not warranted by Infineon as  *
* fully representing all the specifications and operating       *
* characteristics of the semiconductor product to which the     *
* model relates. The models describe the characteristics of     *
* typical devices.                                              *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Although models can be a useful tool in evaluating device     *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. INFINEON therefore does not  *
* assume any liability arising from their use.                  *
* INFINEON reserves the right to change models without prior    *
* notice.                                                       *
*                                                               *
*****************************************************************
*   BSP297         (n-channel, 200 V enhancement)               *
*   SISC3_2N20E    (n-channel, 200 V enhancement)               *
*   BSP149         (n-channel, 200 V depletion)                 *
*   SISC3_2N20D    (n-channel, 200 V depletion)                 *
*   SPD07N20       (n-channel, 200 V enhancement, Level 0 only) *
*   BUZ30A         (n-channel, 200 V enhancement, Level 0 only) * 
*   BUZ30A_SMD     (n-channel, 200 V enhancement, Level 0 only) * 
*****************************************************************
* thermal nodes of level 3 models:                              *
*                                                               *
*  .SUBCKT BSP297 drain gate source Tj Tcase                    *
*  Tj :    potential=temperature (in °C) at junction (typically *
*          not connected)                                       *
*  Tcase/Tsolder_joint :                                        *
*          node where the boundary contition - external heat    *
*          sinks etc - have to be connected (ideal heat sink    *
*          can be modeled by using a voltage source stating the *
*          ambient temperature in °C between Tcase and ground.  *
*                                                               *    
*****************************************************************
   

.SUBCKT K_200_a_var dd g s Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 heat=1

.PARAM  Vth0=1.45      beta4c=0.215   ph0=25.7       ph1=0.038      Ubr=257
.PARAM  Rd=1.65        nmu=2.6        Rf=0.2         rpa=0.05733    lnIsj=-24.6
.PARAM  Rdi=0.2

.PARAM  Tref=298     T0=273      auth=3m      c=0.82       mu_bet=0.4
.PARAM  f_bet=-2     ndi=1.2     UTnbr=207m   lnBr=-23     kbq=85.8u
.PARAM  Wcml={beta4c*4*c}        
.PARAM  aubr={0.93m*UBr}
.PARAM  dvgs={0.1-0.06*Vth0}

.PARAM  f1=60p         f2=78p         f3=140p        f4=265p        f5=325p
.PARAM  U0=0.5         nd=0.5         nc=0.5         g1=2.2         bb=-3
.PARAM  sl=65p         remp=0p        ta=60n         td=20n

.PARAM  Vmin=0.8       Vmax=1.8       dCmax=0.35
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  p0={Wcml*a*((1-f_bet)*(T0/Tref)**mu_bet+f_bet)    }
.PARAM  Rlim={(Rmax-Rs-(Unn-Vth0-Inn*Rs-SQRT((Unn-Vth0-Inn*Rs)**2-4*c*Inn/p0))/(2*c*Inn))/(1+rpa*(Inn/a)**2)} 
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a,0),0)} 
.PARAM  bet={Wcml}

.PARAM  dC1={1+dCmax*limit(dC,0,1)} 
.PARAM  Cox={f1*a*dC1}
.PARAM  Cds0={f2*a*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  Cox1={f5*a*dC1}
.PARAM  Crand={remp*SQRT(a)}
.PARAM  dRdi={Rdi/a}

.FUNC U1(Uds,T)       {(SQRT(1+4*(0.4+(T-T0-25)*2m)*abs(Uds))-1)/2/(0.4+(T-T0-25)*2m)}
.FUNC I2(p,Uee,z1,pp) {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp-(min(0,Uee))**2)/p))}
.FUNC Ig(Uds,T,p,Uee) {bet*((1-f_bet)*(T0/T)**mu_bet+f_bet)*I2(p,Uee,min(Uds,Uee/(2*c)),min(2*p,p+c*Uds))}
.FUNC Iges(Uds,Ugs,T) 
 +{a*(sgn(Uds)*Ig(U1(Uds,T),T,1/(ph0-ph1*T),Ugs-Vth+auth*(T-Tref))+exp(min(lnBr+(abs(Uds)-UBr-aubr*(T-Tref))/UTnbr,25)))}

.FUNC Isjt(Tj)           {exp(min(lnIsj+(Tj/Tref-1)*1.12/(ndi*kbq*Tj),9))*(Tj/Tref)**1.5}
.FUNC Idiode(Usd,Tj,Iss) {exp(min(log(Iss)+Usd/(ndi*kbq*Tj),9))-Iss}
.FUNC Idiod(Usd,Tj)      {a*Idiode(Usd,Tj,Isjt(Tj))}

.FUNC QCdg(x,z)  {if(f4>f5,(f5**2-(f4-z*sl)**2)/(2*sl)+f5*min(x,(f4-f5)/sl),f4*z-sl*z**2/2-f5*max((f4-f5)/sl-x,0))}

E_Edg     d   ox  VALUE {V(d,g)-(min(V(d,g),-bb)+1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-1))}
C_Cdg     ox  g   {Cox}
E_Edg1    d   ox1 VALUE {V(d,g)-QCdg(V(d,g),limit(V(d,g),(f4-f5)/sl,f4/sl))/f5}
C_Cdg1    ox1 g   {Cox1}
C_Cdg2    d   g   {Crand}

E_Eds     d edep  VALUE {(V(d2,s)-I(V_sense3)/Cds0)}
C_Cds  edep    s  {Cds0}
C_Cds2   d2    s  {Cds0/500}

C_Cgs     g    s  {Cgs0}

G_chan    d    s  VALUE={Iges(V(d,s),V(g,s),T0+limit(V(Tj),-200,350))}
E_RMos   d1    d  VALUE={I(V_sense)*(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)*(1+rpa*(I(V_sense)/a)**2)}
V_sense  dd   d1  0
G_diode   s   d2  VALUE={Idiod(V(s,d2),T0+limit(V(Tj),-200,499))}
R_Rdio   d2   d3  {dRdi}
V_sense2 d1   d3  0

L_L001    a    c  {td/(ta+td)}
R_R001    a    b  {1/ta}
V_sense3  c    f  0
R_sense3  f    0  1
E_E001    b    0  VALUE {I(V_sense2)}
E_E002    e    0  VALUE {1Meg*Cds0*(1/(1-nd)*U0**nd*(limit(U0+V(d2,s),U0/2,2*UBr))**(1-nd)+2**nd*min(V(d2,s)+U0/2,0))}
R_R002    e    c  1Meg

R1        g    s  1G
Rd01      d    s  500Meg
Rd02     d2    s  500Meg
Rd03     d1    d  10k

G_TH      0    Tj  VALUE = {heat*LIMIT(I(V_sense)*V(dd,s),0,100k)}

.ENDS
*$

**************************************************************************************


.SUBCKT K_200_d_var dd g s Tj PARAMS: a=1 dVth=0 dR=0 dgfs=0 Inn=1 Unn=1 Rmax=1
+gmin=1 Rs=1 Rp=1 dC=0 heat=1

.PARAM  Vth0=-1.05     beta4c=0.215   ph0=20         ph1=0.026      Ubr=257
.PARAM  Rd=1.65        nmu=2.6        Rf=0.2         rpa=0.05733    lnIsj=-24.6
.PARAM  Rdi=0.2

.PARAM  Tref=298     T0=273      auth=3m      c=0.82       mu_bet=0.4
.PARAM  f_bet=-2     ndi=1.2     UTnbr=207m   lnBr=-23     kbq=85.8u
.PARAM  Wcml={beta4c*4*c}        
.PARAM  aubr={0.93m*UBr}
.PARAM  dvgs={0.1-0.06*Vth0}

.PARAM  f1=108p        f2=78p         f3=140p        f4=315p        f5=325p
.PARAM  U0=0.5         nd=0.5         nc=0.5         g1=4           bb=-9
.PARAM  sl=35p         remp=0p        ta=60n         td=20n

.PARAM  Vmin=-2.1      Vmax=-1        dCmax=0.35
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  p0={Wcml*a*((1-f_bet)*(T0/Tref)**mu_bet+f_bet)    }
.PARAM  Rlim={(Rmax-Rs-(Unn-Vth0-Inn*Rs-SQRT((Unn-Vth0-Inn*Rs)**2-4*c*Inn/p0))/(2*c*Inn))/(1+rpa*(Inn/a)**2)} 
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a,0),0)} 
.PARAM  bet={Wcml}

.PARAM  dC1={1+dCmax*limit(dC,0,1)} 
.PARAM  Cox={f1*a*dC1}
.PARAM  Cds0={f2*a*dC1}
.PARAM  Cgs0={f3*a*dC1}
.PARAM  Cox1={f5*a*dC1}
.PARAM  Crand={remp*SQRT(a)}
.PARAM  dRdi={Rdi/a}

.FUNC U1(Uds,T)       {(SQRT(1+4*(0.4+(T-T0-25)*2m)*abs(Uds))-1)/2/(0.4+(T-T0-25)*2m)}
.FUNC I2(p,Uee,z1,pp) {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp-(min(0,Uee))**2)/p))}
.FUNC Ig(Uds,T,p,Uee) {bet*((1-f_bet)*(T0/T)**mu_bet+f_bet)*I2(p,Uee,min(Uds,Uee/(2*c)),min(2*p,p+c*Uds))}
.FUNC Iges(Uds,Ugs,T) 
 +{a*(sgn(Uds)*Ig(U1(Uds,T),T,1/(ph0-ph1*T),Ugs-Vth+auth*(T-Tref))+exp(min(lnBr+(abs(Uds)-UBr-aubr*(T-Tref))/UTnbr,25)))}

.FUNC Isjt(Tj)           {exp(min(lnIsj+(Tj/Tref-1)*1.12/(ndi*kbq*Tj),9))*(Tj/Tref)**1.5}
.FUNC Idiode(Usd,Tj,Iss) {exp(min(log(Iss)+Usd/(ndi*kbq*Tj),9))-Iss}
.FUNC Idiod(Usd,Tj)      {a*Idiode(Usd,Tj,Isjt(Tj))}

.FUNC QCdg(x,z)  {if(f4>f5,(f5**2-(f4-z*sl)**2)/(2*sl)+f5*min(x,(f4-f5)/sl),f4*z-sl*z**2/2-f5*max((f4-f5)/sl-x,0))}

E_Edg     d   ox  VALUE {V(d,g)-(min(V(d,g),-bb)+1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-1))}
C_Cdg     ox  g   {Cox}
E_Edg1    d   ox1 VALUE {V(d,g)-QCdg(V(d,g),limit(V(d,g),(f4-f5)/sl,f4/sl))/f5}
C_Cdg1    ox1 g   {Cox1}
C_Cdg2    d   g   {Crand}

E_Eds     d edep  VALUE {(V(d2,s)-I(V_sense3)/Cds0)}
C_Cds  edep    s  {Cds0}
C_Cds2   d2    s  {Cds0/500}

C_Cgs     g    s  {Cgs0}

G_chan    d    s  VALUE={Iges(V(d,s),V(g,s),T0+limit(V(Tj),-200,350))}
E_RMos   d1    d  VALUE={I(V_sense)*(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)*(1+rpa*(I(V_sense)/a)**2)}
V_sense  dd   d1  0
G_diode   s   d2  VALUE={Idiod(V(s,d2),T0+limit(V(Tj),-200,499))}
R_Rdio   d2   d3  {dRdi}
V_sense2 d1   d3  0

L_L001    a    c  {td/(ta+td)}
R_R001    a    b  {1/ta}
V_sense3  c    f  0
R_sense3  f    0  1
E_E001    b    0  VALUE {I(V_sense2)}
E_E002    e    0  VALUE {1Meg*Cds0*(1/(1-nd)*U0**nd*(limit(U0+V(d2,s),U0/2,2*UBr))**(1-nd)+2**nd*min(V(d2,s)+U0/2,0))}
R_R002    e    c  1Meg

R1        g    s  1G
Rd01      d    s  500Meg
Rd02     d2    s  500Meg
Rd03     d1    d  10k

G_TH      0    Tj  VALUE = {heat*LIMIT(I(V_sense)*V(dd,s),0,100k)}

.ENDS
*$

**************************************************************************************

.SUBCKT BSP297 drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0

.PARAM Rs=0.027     Rg=10        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=0.66     Unn=10       Rmax=1.8
.PARAM act=2

X1  d1 g s Tj K_200_a_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=1

Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              {118.56m+limit(Zthtype,0,1)*43.88m}
Rth2  t1      t2              {347.23m+limit(Zthtype,0,1)*128.51m}
Rth3  t2      t3              {3.59+limit(Zthtype,0,1)*120.87m}
Rth4  t3      t4              {7.52+limit(Zthtype,0,1)*2.58}
Rth5  t4      Tcase           {7.85+limit(Zthtype,0,1)*2.7}
Cth1  Tj      0               36.815u
Cth2  t1      0               164.552u
Cth3  t2      0               417.212u
Cth4  t3      0               5.466m
Cth5  t4      0               48.845m


.ENDS
*$

********************

.SUBCKT SISC3_2N20E drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0

.PARAM Rs=0.005     Rg=10        
.PARAM Inn=0.66     Unn=10       Rmax=1.8
.PARAM act=2

X1  drain g s Tj K_200_a_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=1

Rg    gate     g    {Rg}   

Gs    source     s    VALUE={V(source,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   source     s    1Meg



Rth1  Tj      t1              {118.56m+limit(Zthtype,0,1)*43.88m}
Rth2  t1      t2              {347.23m+limit(Zthtype,0,1)*128.51m}
Rth3  t2      t3              {465.31m+limit(Zthtype,0,1)*116.52m}
Rth4  t3      t4              {1p+limit(Zthtype,0,1)*0p}
Rth5  t4      Tcase           {1p+limit(Zthtype,0,1)*0p}
Cth1  Tj      0               36.815u
Cth2  t1      0               164.552u
Cth3  t2      0               650u
Cth4  t3      0               1p
Cth5  t4      0               1p


.ENDS
*$

********************

.SUBCKT BSP149 drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0

.PARAM Rs=0.027     Rg=10        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=0.07     Unn=0        Rmax=3.5
.PARAM act=2

X1  d1 g s Tj K_200_d_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=1

Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              {118.56m+limit(Zthtype,0,1)*43.88m}
Rth2  t1      t2              {347.23m+limit(Zthtype,0,1)*128.51m}
Rth3  t2      t3              {3.59+limit(Zthtype,0,1)*120.87m}
Rth4  t3      t4              {7.52+limit(Zthtype,0,1)*2.58}
Rth5  t4      Tcase           {7.85+limit(Zthtype,0,1)*2.7}
Cth1  Tj      0               36.815u
Cth2  t1      0               164.552u
Cth3  t2      0               417.212u
Cth4  t3      0               5.466m
Cth5  t4      0               48.845m


.ENDS
*$

********************

.SUBCKT SISC3_2N20D drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0

.PARAM Rs=0.027     Rg=10        
.PARAM Inn=0.07     Unn=0        Rmax=3.5
.PARAM act=2

X1  drain g s Tj K_200_d_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=1

Rg    gate     g    {Rg}   

Gs    source     s    VALUE={V(source,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   source     s    1Meg



Rth1  Tj      t1              {118.56m+limit(Zthtype,0,1)*43.88m}
Rth2  t1      t2              {347.23m+limit(Zthtype,0,1)*128.51m}
Rth3  t2      t3              {465.31m+limit(Zthtype,0,1)*116.52m}
Rth4  t3      t4              {1p+limit(Zthtype,0,1)*0p}
Rth5  t4      Tcase           {1p+limit(Zthtype,0,1)*0p}
Cth1  Tj      0               36.815u
Cth2  t1      0               164.552u
Cth3  t2      0               650u
Cth4  t3      0               1p
Cth5  t4      0               1p


.ENDS
*$

********************



.SUBCKT BSP297_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=0.027     Rg=10        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=0.66     Unn=10       Rmax=1.8
.PARAM act=2

X1  d1 g s Tj K_200_a_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=0
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS
*$

**********

.SUBCKT SISC3_2N20E_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=0.005     Rg=10        
.PARAM Inn=0.66     Unn=10       Rmax=1.8
.PARAM act=2

X1  drain g s Tj K_200_a_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=0
Rg    gate     g    {Rg}   

Gs    source     s    VALUE={V(source,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   source     s    1Meg



E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS
*$

**********

.SUBCKT BSP149_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=0.027     Rg=10        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=0.07     Unn=0        Rmax=3.5
.PARAM act=2

X1  d1 g s Tj K_200_d_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=0
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS
*$

**********

.SUBCKT SISC3_2N20D_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=0.027     Rg=10        
.PARAM Inn=0.07     Unn=0        Rmax=3.5
.PARAM act=2

X1  drain g s Tj K_200_d_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} heat=0
Rg    gate     g    {Rg}   

Gs    source     s    VALUE={V(source,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   source     s    1Meg



E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS
*$

**********


.SUBCKT BSP297_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 1.592  VTO=1.65  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    0.7 TC=11m
.MODEL MVDR NMOS (KP=4 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=257   M=0.5  CJO=246p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=50p  N=1.2  RS=67u  EG=1.12  TT=60n)
Rdiode  d1  21    100m TC=2m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   770p
.MODEL     DGD    D(M=0.9   CJO=770p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    280p

.ENDS  BSP297_L0

******

.SUBCKT SISC3_2N20E_L0  drain  gate  source




Rs      source    s2   0.005

Rg     gate    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 1.592  VTO=1.65  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    0.7 TC=11m
.MODEL MVDR NMOS (KP=4 VTO=-1.4   LAMBDA=0.15)
Mr drain d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=257   M=0.5  CJO=246p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=50p  N=1.2  RS=67u  EG=1.12  TT=60n)
Rdiode  drain  21    100m TC=2m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   770p
.MODEL     DGD    D(M=0.9   CJO=770p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    280p

.ENDS  SISC3_2N20E_L0

******

.SUBCKT BSP149_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.027

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 1.5  VTO=-0.87  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    0.75 TC=11m
.MODEL MVDR NMOS (KP=4 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=257   M=0.5  CJO=246p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=50p  N=1.2  RS=67u  EG=1.12  TT=60n)
Rdiode  d1  21    100m TC=2m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   866p
.MODEL     DGD    D(M=0.66   CJO=866p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    280p

.ENDS  BSP149_L0

******

.SUBCKT SISC3_2N20D_L0  drain  gate  source




Rs      source    s2   0.027

Rg     gate    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 1.5  VTO=-0.87  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    0.75 TC=11m
.MODEL MVDR NMOS (KP=4 VTO=-1.4   LAMBDA=0.15)
Mr drain d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=257   M=0.5  CJO=246p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=50p  N=1.2  RS=67u  EG=1.12  TT=60n)
Rdiode  drain  21    100m TC=2m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   866p
.MODEL     DGD    D(M=0.66   CJO=866p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    280p

.ENDS  SISC3_2N20D_L0

******

.SUBCKT SPD07N20_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   2n
Rs      s1    s2   2m

Rg     g1    g2     10

M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 6  VTO=3.35  THETA=0  VMAX=1.5e5  ETA=0.001  LEVEL=3)
Rd     d1    d2    250m TC=12m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=210   M=0.5  CJO=1n  VJ=0.8V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=15.8p  N=1.0  RS=2.41u  EG=1.12  TT=100n)
Rdiode  d1  21    40m TC=2m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   1.2n
.MODEL     DGD    D(M=3   CJO=1.2n   VJ=1)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cox1      d2   g2   35p
Cgs     g2    s2    400p

.ENDS SPD07N20_L0

******

.SUBCKT BUZ30A_L0  drain  gate  source

Lg     gate  g1    4n
Ld     drain d1    4n
Ls     source s1   4n
Rs      s1    s2   12m TC=13m

Rg     g1    g2     5.5
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP=29  VTO=3.316  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    13m TC=17m

.MODEL MVDR NMOS (KP=1.4 VTO=-12.08   LAMBDA=0.0)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=210   M=0.5  CJO=600p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=300p  N=1  RS=1u  EG=1.12  TT=60n)
Rdiode  d1  21    1m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   4.2n
.MODEL     DGD    D(M=0.88   CJO=4.1n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    1.5n

.ENDS  BUZ30A_L0

******

.SUBCKT BUZ30A_SMD_L0  drain  gate  source

Lg     gate  g1    4n
Ld     drain d1    1n
Ls     source s1   4n
Rs      s1    s2   12m TC=13m

Rg     g1    g2     5.5
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP=29  VTO=3.316  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    13m TC=17m

.MODEL MVDR NMOS (KP=1.4 VTO=-12.08   LAMBDA=0.0)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=210   M=0.5  CJO=600p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=300p  N=1  RS=1u  EG=1.12  TT=60n)
Rdiode  d1  21    1m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   4.2n
.MODEL     DGD    D(M=0.88   CJO=4.1n   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    1.5n

.ENDS  BUZ30A_SMD_L0

******
